US08106064B2
2,4-Bis-benzyloxy-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine (120):
To a stirred anhydrous benzyl alcohol (10 ml) under nitrogen atmosphere at room temperature, was added sodium metal (285 mg, 12.41 mmol). After 1 hr., 2,4-dichloro-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine (1.91 g, 5.17 mmol) in anhydrous benzyl alcohol (7 ml) was added. After stirring for overnight at room temperature, the mixture was evaporated in vacuo. The residue was dissolved in dichloromethane, filtered through a celite pad and the pad was washed with dichloromethane. The combined filtrate was then evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:10)) to afford 1.52 g (57%) of a colorless syrup. 1H NMR (200 MHz, CDCl3) δ 1.30 (6H, d, J=7.2 Hz), 2.39 (3H, s), 3.43 (1H, m), 4.02-4.13 (4H, m), 5.12 (2H, s), 5.42 (2H, s), 5.81 (1H, s), 6.92 (1H, s), 7.07 (1H, s), 7.16 (1H, s), 7.20-7.43 (10H, m).

reactant | sodium | 12.41 mmol, 285 mg | [Na] | Na
reactant | 2,4-dichloro-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine | 5.17 mmol, 1.91 g | ClC1=NC(=C(C(=N1)Cl)C(C)C)OC1=CC(=CC(=C1)C)C1OCCO1 | C17H18Cl2N2O3
reactant | benzyl alcohol | 7 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl alcohol | 10 ml | C(C1=CC=CC=C1)O | C7H8O
product | 2,4-Bis-benzyloxy-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine | 1.52 g, 57% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C(C)C)OC1=CC(=CC(=C1)C)C1OCCO1 | C31H32N2O5
